US20010036946A1
d) 1-[4-[4-(dimethylamino)butyl]phenyl]-piperazine-dihydrochloride
Prepared analogously to example A20b) from 4-[4-[4-(dimethylamino)-1-hydroxybutyl]phenyl]-1-(phenylmethyl)piperazine by catalytic hydrogenation in the presence of palladium/charcoal and hydrochloric acid in a quantitative yield. Colourless, amorphous substance of Rf=0.37 (eluant: ethyl acetate/methanol 50/50/0.5 v/v/v).

reactant | 4-[4-[4-(dimethylamino)-1-hydroxybutyl]phenyl]-1-(phenylmethyl)piperazine | CN(CCCC(O)C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1)C | C23H33N3O
reactant | hydrochloric acid | Cl | ClH
catalyst | palladium/charcoal | [Pd] | Pd
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 1-[4-[4-(dimethylamino)butyl]phenyl]-piperazine-dihydrochloride | quantitative yield | Cl.Cl.CN(CCCCC1=CC=C(C=C1)N1CCNCC1)C | InChI=1S/C16H27N3.2ClH/c1-18(2)12-4-3-5-15-6-8-16(9-7-15)19-13-10-17-11-14-19;;/h6-9,17H,3-5,10-14H2,1-2H3;2*1H
